US05885985
A sample of m-nitrobenzoyl chloride, 7.4 g in 300 ml of ethyl acetate was treated with 11 ml of benzyl amine. After 30 minutes, the mix was washed with 100 ml of water. The ethyl acetate layer was concentrated hot to 100 ml and diluted with heptane until solids formed, and then the mix was stirred overnight and allowed to cool to 20° C. The solids were then collected to give N-phenylmethyl-3-nitrobenzamide, m.s. (M+H)+ =257

reactant | m-nitrobenzoyl chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | benzyl amine | 11 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | N-phenylmethyl-3-nitrobenzamide | C1(=CC=CC=C1)CNC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C14H12N2O3
